US05885967
B) Preparation of Cbz-D-hPro-N(Ph)Gly-OEt
To a solution of Cbz-D-hPro-NHC6H5 (7.7 g, 22.8 mmol) in tetrahydrofuran (300 mL) was added ethyl bromoacetate (12.6 mL, 113.8 mmol). The solution was cooled to 0° C. and NaH 60% suspension (2 g, 50 mmol) was added in small portions over 20 minutes, with gas evolution. After gas evolution had ceased, the cold bath was left unattended and the mixture was allowed to warm slowly to room temperature. After 18 hours, 1N citric acid (50 mL) was added slowly with cooling. The mixture was partitioned between ethyl acetate (300 mL) and 1N citric acid (300 mL). The organic layer was washed twice with 1N citric acid (200 mL), twice with saturated aqueous NaHCO3, and twice with saturated aqueous sodium chloride solution. The ethyl acetate layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was chromatographed over silica gel, eluting with a step gradient of hexanes through 50% ethyl acetate/hexanes. Fractions containing product (as judged by TLC) were combined and concentrated in vacuo to give a yellow oil (9.2 g, 96%).

reactant | Cbz-D-hPro-NHC6H5 | 22.8 mmol, 7.7 g | N1([C@@H](C(=O)NC2=CC=CC=C2)CCCC1)C(=O)OCC1=CC=CC=C1 | C20H22N2O3
reactant | ethyl bromoacetate | 113.8 mmol, 12.6 mL | BrCC(=O)OCC | C4H7BrO2
reactant | NaH | [H-].[Na+]
reactant | citric acid | 1N, 50 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | Cbz-D-hPro-N(Ph)Gly-OEt | 9.2 g, 96% | N1([C@@H](C(=O)N(CC(=O)OCC)C2=CC=CC=C2)CCCC1)C(=O)OCC1=CC=CC=C1 | C24H28N2O5
